US07528250B2
7-Benzenesulfonyl-chroman-4-one (500 mg, 1.73 mmol) was dissolved in 15 mL MeOH, and sodium borohidride (72 mg, 1.9 mmol) was added. The reaction mixture was stirred at room temperature for one hour, and was then partitioned between water and ethyl acetate. The combined organic layers were dried over MgSO4, and solvent was removed under reduced pressure to give 483 mg of crude 7-benzenesulfonyl-chroman-4-ol. MS: 291 (M+H)+.

reactant | 7-Benzenesulfonyl-chroman-4-one | 1.73 mmol, 500 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)=O | C15H12O4S
reactant | sodium | [Na] | Na
solvent | MeOH | 15 mL | CO | CH4O
product | 7-benzenesulfonyl-chroman-4-ol | 483 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)O | C15H14O4S
